data/polar.json
{"reaction_name": "Schotten–Baumann acylation", "rsmi": "[NH:5]([CH3:8])[H:13].[OH-:9].[c:1]1([C:6]([Cl:2])=[O:12])[cH:3][cH:10][cH:7][cH:11][cH:4]1>>[Cl-:2].[OH:9][H:13].[c:1]1([C:6]([NH:5][CH3:8])=[O:12])[cH:3][cH:10][cH:7][cH:11][cH:4]1", "epd": [["LP-/Sigma+", [5], [5, 6]], ["Pi-/LP+", [6, 12], [12]], ["LP-/Pi+", [12], [6, 12]], ["Sigma-/LP+", [2, 6], [2]], ["LP-/Sigma+", [9], [9, 13]], ["Sigma-/LP+", [5, 13], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:4]=[S:10](=[O:5])([C:12]([F:41])([F:42])[F:43])[c:37]1[cH:25][c:11]2[n+:17]([O-:7])[o:40][n:21][c:45]2[c:36]([N+:22]([O-:18])=[O:26])[cH:39]1.[cH:1]1[c:8]([CH3:27])[s:38][c:6]([B-:9]2([c:44]3[cH:28][c:13]([C:2]([F:30])([F:31])[F:32])[cH:16][c:14]([C:3]([F:33])([F:34])[F:35])[cH:29]3)[O:23][CH2:19][CH2:20][O:24]2)[cH:15]1>>[C:2]([c:13]1[cH:16][c:14]([C:3]([F:33])([F:34])[F:35])[cH:29][c:44]([B-:9]2=[O+:23][CH2:19][CH2:20][O:24]2)[cH:28]1)([F:30])([F:31])[F:32].[cH:1]1[c:8]([CH3:27])[s:38][c:6]([CH:25]2[c:11]3[n+:17]([O-:7])[o:40][n:21][c:45]3[C:36](=[N+:22]([O-:18])[O-:26])[CH:39]=[C:37]2[S:10](=[O:4])(=[O:5])[C:12]([F:41])([F:42])[F:43])[cH:15]1", "epd": [["LP-/Pi+", [23], [9, 23]], ["Sigma-/Sigma+", [6, 9], [6, 25]], ["Pi-/Pi+", [25, 37], [37, 39]], ["Pi-/Pi+", [39, 36], [36, 22]], ["Pi-/LP+", [22, 26], [26]]]}
{"reaction_name": "Thiol-to-disulfide oxidation", "rsmi": "[O:5]([H:8])[O:9][H:10].[S:1]([CH3:3])[H:6].[S:2]([CH3:4])[H:7]>>[O:5]([H:6])[H:7].[S:1]([S:2][CH3:4])[CH3:3].[O:9]([H:8])[H:10]", "epd": [["Sigma-/Sigma+", [1, 6], [1, 2]], ["Sigma-/Sigma+", [5, 8], [5, 6]], ["Sigma-/Sigma+", [2, 7], [5, 7]], ["Sigma-/Sigma+", [5, 9], [8, 9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1=[CH:5][c:7]2[cH:10][cH:9][cH:21][cH:8][c:15]2[CH:22]1[Na:16].[c:2]12[c:14]([n:4][o:20][n+:19]1[O-:3])[n:13][c:11]([O:17][CH3:12])[n:6][cH:18]2>>[CH:1]1=[CH:5][c:7]2[cH:10][cH:9][cH:21][cH:8][c:15]2[CH:22]1[CH:18]1[c:2]2[c:14]([n:4][o:20][n+:19]2[O-:3])[N:13]=[C:11]([O:17][CH3:12])[N-:6]1.[Na+:16]", "epd": [["Sigma-/Sigma+", [22, 16], [22, 18]], ["Pi-/LP+", [18, 6], [6]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:7][c:8]1[cH:19][cH:16][c:18]([CH3:13])[cH:17][cH:20]1.[O:1]=[S:4](=[O:2])([C:6]([F:25])([F:26])[F:27])[c:22]1[cH:14][c:5]2[n+:9]([O-:3])[o:24][n:11][c:28]2[c:21]([N+:12]([O-:10])=[O:15])[cH:23]1>>[O:1]=[S:4](=[O:2])([C:6]([F:25])([F:26])[F:27])[C:22]1=[CH:23][C:21](=[N+:12]([O-:10])[O-:15])[c:28]2[c:5]([n+:9]([O-:3])[o:24][n:11]2)[CH:14]1[O:7][c:8]1[cH:19][cH:16][c:18]([CH3:13])[cH:17][cH:20]1", "epd": [["LP-/Sigma+", [7], [7, 14]], ["Pi-/Pi+", [14, 22], [22, 23]], ["Pi-/Pi+", [23, 21], [21, 12]], ["Pi-/LP+", [12, 15], [15]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:6](=[O+:26][CH3:23])[c:29]1[cH:18][cH:16][cH:12][cH:17][cH:19]1.[cH:1]1[c:20]([C:13](=[C:3]2[N:14]([CH3:4])[c:21]3[cH:11][cH:9][cH:8][cH:10][c:22]3[N:15]2[CH3:5])[O:28][CH3:27])[cH:2][cH:25][cH:7][cH:24]1>>[cH:1]1[c:20]([C:13]([c:3]2[n+:14]([CH3:4])[c:21]3[cH:11][cH:9][cH:8][cH:10][c:22]3[n:15]2[CH3:5])([CH:6]([O:26][CH3:23])[c:29]2[cH:18][cH:16][cH:12][cH:17][cH:19]2)[O:28][CH3:27])[cH:2][cH:25][cH:7][cH:24]1", "epd": [["LP-/Pi+", [14], [3, 14]], ["Pi-/Sigma+", [13, 3], [13, 6]], ["Pi-/LP+", [6, 26], [26]]]}
{"reaction_name": "Simmons–Smith carbenoid formation step", "rsmi": "[CH2:1]([I:3])[I:4].[Zn:2]>>[CH2:1]([Zn:2][I:4])[I:3]", "epd": [["LP-/Sigma+", [4], [2, 4]], ["Sigma-/LP+", [1, 4], [4]], ["LP-/Sigma+", [2], [1, 2]]]}
{"reaction_name": "Epoxide ring expansion", "rsmi": "[CH:1]1([CH3:3])[CH2:2][O:4]1.[C-:6]#[N:7]>>[O-:4][CH:1]([CH3:3])[CH2:2][C:6]#[N:7]", "epd": [["LP-/Sigma+", [6], [2, 6]], ["Sigma-/LP+", [2, 4], [4]]]}
{"reaction_name": "Allylboration of aldehydes", "rsmi": "[B:1]([CH2:4][CH:2]=[CH2:3])([O:10][CH3:5])[O:11][CH3:6].[O:7]=[CH:9][CH3:8]>>[B:1]([O:7][CH:9]([CH2:4][CH:2]=[CH2:3])[CH3:8])([O:10][CH3:5])[O:11][CH3:6]", "epd": [["Pi-/Sigma+", [7, 9], [1, 7]], ["Sigma-/Sigma+", [1, 4], [4, 9]]]}
{"reaction_name": "Hydrohalogenation of alkenes", "rsmi": "[CH2:3]=[CH2:4].[H:1][Br:2]>>[H:1][CH2:3][CH2:4][Br:2]", "epd": [["Pi-/Sigma+", [3, 4], [1, 3]], ["Sigma-/LP+", [1, 2], [2]], ["LP-/Sigma+", [2], [2, 4]]]}
